US20010007873A1
Under a N2 atmosphere in 75 mls of anhydrous THF was added 5.38 g (18.35 mmol) of 4-benzyloxy-1-bromo-2-methoxybenzene. The solution was cooled to −78° C. and 8.07 mls (20.19 mmol) of a 2.5 M solution of butyl lithium was added dropwise and the temperature was maintained below −70° C. The reaction mixture was stirred at −78° C. for 1.5 hours at which point 3.43 mls (20.19 mmol) of triethyl borate was added. The reaction was allowed to stir at −78° C. for an additional 2.5 hours. The reaction mixture was quenched with 50 mls of saturated ammonium chloride (NH4Cl) and allowed to warm to ambient temperature. Water (100 mls) was added to this solution, the pH was adjusted to 5.0 with 1 M HCl and the resultant solution was extracted with ethyl acetate (2×200 mls). The combined extracts were washed with brine (1×100 mls) and dried over sodium sulfate, filtered and concentrated in vacuo to yield crude product as a pink solid which was crystallized with ethyl acetate/hexane to afford 2.68 g (57%) of 4-benzyloxy-2-methoxy-phenylboronic acid as an off-white solid. H NMR (CDCl3)δ1.38 (s-9H), 1.93 (s-6H), 2.31 (s-3H), 4.10 (bs-2H), 5.57 (bs-1H), 6.50 (d-1H), 6.77 (d-1H), 6.92 (s-2H), 7.10 (dd-1H).

reactant | 4-benzyloxy-1-bromo-2-methoxybenzene | 18.35 mmol, 5.38 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)Br)OC | C14H13BrO2
reactant | butyl lithium | C(CCC)[Li]
reactant | triethyl borate | 20.19 mmol, 3.43 mls | B(OCC)(OCC)OCC | C6H15BO3
solvent | THF | 75 mls | C1CCOC1 | C4H8O
product | 4-benzyloxy-2-methoxy-phenylboronic acid | 2.68 g, 57% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)B(O)O)OC | C14H15BO4
